US05610303
4-[1-Oxo-2-(1-benzylpiperidin-4-yl)methyleneindan-5-yl]amino-5,6-dihydro-7H-cyclopenta[d]pyrimidine (Compound III-3 in Table 2)
Under ice cooling, 1.70 g of a 28% sodium methoxide·methanol solution was added to 1.96 g of 4-(1-oxoindan-5-yl)amino-5,6-dihydro-7H-cyclopenta[d]pyrimidine dissolved in tetrahydrofuran, and then 1.80 g of 1-benzyl-4-formylpiperidine was added dropwise thereto. After the mixture was stirred for 1.5 hours, a saturated saline solution was added to the reaction mixture, and the mixture was extracted with chloroform. The extract was dried over anhydrous sodium sulfate and condensed under reduced pressure. The obtained residue was applied to silica gel column chromatography and then recrystallized from chloroform to obtain 1.35 g of the title compound as pale yellow crystal.

reactant | sodium methoxide·methanol | C[O-].[Na+].CO
reactant | 4-(1-oxoindan-5-yl)amino-5,6-dihydro-7H-cyclopenta[d]pyrimidine | 1.96 g | O=C1CCC2=CC(=CC=C12)NC=1C2=C(N=CN1)CCC2 | C16H15N3O
reactant | 1-benzyl-4-formylpiperidine | 1.80 g | C(C1=CC=CC=C1)N1CCC(CC1)C=O | C13H17NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-[1-Oxo-2-(1-benzylpiperidin-4-yl)methyleneindan-5-yl]amino-5,6-dihydro-7H-cyclopenta[d]pyrimidine | 1.35 g | O=C1C(CC2=CC(=CC=C12)NC=1C2=C(N=CN1)CCC2)=CC2CCN(CC2)CC2=CC=CC=C2 | C29H30N4O
